US05712285
Step 2: 1-tert-Butoxycarbonyl-4-hydroxy-4-(2-phenylthien-5-yl)piperidine
To a solution of 2-phenylthiophene (1.35 g, 9.1 mmol) in tetrahydrofuran (40 ml) at -40° C. under a nitrogen atmosphere was added a solution of n-butyllithium (1.6M in hexanes, 6 ml, 95 mmol) keeping the temperature below -40° C. The reaction was stirred at -40° C. for 10 minutes, allowed to warm to 0° C. and stirred at 0° C. for 30 minutes. The reaction was cooled to -78° C. and a solution of 1-tert-butoxycarbonyl-4-piperidone (1.8 g, 9.1 mmol) in tetrahydrofuran (20 ml) added, keeping the temperature below -50° C. When addition was complete, the reaction was stirred at -60° C. for 30 minutes and at room temperature for 1 hour. The reaction was cooled to 0° C. and quenched by addition of saturated aqueous ammonium chloride (10 ml), poured into water (100 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with brine (50 ml), dried (MgSO4) and evaporated in vacuo to an oil. Purification by chromatography on silica eluting with ethyl acetate/hexane (1:2) gave the title compound as a foam, (2.5 g, 76%). δH (CDCl3) 1.41 (9H, s, OC(CH3)3), 1.84-1.97 (2H, m, piperidinyl H), 2.36 (1H, t, J 9.0 Hz, piperidinyl H), 3.20-3.28 (2H, m, piperidinyl H), 3.64 (1H, t, J 8.9 Hz, piperidinyl H), 3.82 (2H, m, piperidinyl H), 6.86-6.91 (1H, m, ArH), 7.09 (1H, m, ArH), 7.09 (1H, d, J 5.3 Hz, ArH), 7.16-7.33 (3H, m, ArH), 7.46-7.51 (2H, m, ArH).

reactant | 2-phenylthiophene | 9.1 mmol, 1.35 g | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | n-butyllithium | 95 mmol, 1.6M, 6 ml | C(CCC)[Li]
reactant | 1-tert-butoxycarbonyl-4-piperidone | 9.1 mmol, 1.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-tert-Butoxycarbonyl-4-hydroxy-4-(2-phenylthien-5-yl)piperidine | 2.5 g, 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(S1)C1=CC=CC=C1)O | C20H25NO3S
